US04677129
(b) 3-n-heptyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione
0.36 g of sodium hydride is added to a solution of 2.46 g of 1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione in 25 ml of N,N-dimethylformanide and the whole is stirred at room temperature for 30 minutes. 2.68 g of n-heptyl bromide dissolved in 10 ml of N,N-dimethylformamide are then added dropwise thereto. When the reaction is complete, the reaction mixture is freed of N,N-dimethylformamide. The residue is partitioned between ethyl acetate and water, and the organic phase is dried over magnesium sulphate. After concentration by evaporation and purification by chromatography over silica gel in the system ethyl acetate/hexane 2:5, the product is obtained in the form of a solid. Melting point 91°-92°. Rf (ethyl acetate/hexane 4:1)=0.63.

reactant | sodium hydride | 0.36 g | [H-].[Na+]
reactant | 1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | 2.46 g | [N+](=O)([O-])C1=CC=C(C=C1)C12C(NC(C(C1)C2)=O)=O | C12H10N2O4
reactant | n-heptyl bromide | 2.68 g | C(CCCCCC)Br | C7H15Br
reactant | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 3-n-heptyl-1-(4-nitrophenyl)-3-azabicyclo[3.1.1]heptane-2,4-dione | C(CCCCCC)N1C(C2(CC(C1=O)C2)C2=CC=C(C=C2)[N+](=O)[O-])=O | C19H24N2O4
